US09079861B2
To a solution of (R)—N-(3-((1S)-1-(4-bromophenyl)ethylamino)-1-(4-fluorophenyl) propylidene)-2-methylpropane-2-sulfinamide (13.3 g, 29.3 mmol) in THF (300 mL) was added 1M allylmagnesium bromide (88 mL, 0.088 mol) under nitrogen at −78° C. The mixture was stirred for 2 h. The reaction was quenched with satd aq NH4Cl. The organic phase was separated and concentrated to give crude (R)—N—((R)-1-((S)-1-(4-bromophenyl)ethylamino)-3-(4-fluorophenyl)hex-5-en-3-yl)-2-methylpropane-2-sulfinamide (14 g, 100%), which was used for the next step without further purification.

reactant | (R)—N-(3-((1S)-1-(4-bromophenyl)ethylamino)-1-(4-fluorophenyl) propylidene)-2-methylpropane-2-sulfinamide | 29.3 mmol, 13.3 g | BrC1=CC=C(C=C1)[C@H](C)NCCC(C1=CC=C(C=C1)F)=N[S@](=O)C(C)(C)C | C21H26BrFN2OS
reactant | allylmagnesium bromide | 0.088 mol, 1M, 88 mL | C(C=C)[Mg]Br
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | (R)—N—((R)-1-((S)-1-(4-bromophenyl)ethylamino)-3-(4-fluorophenyl)hex-5-en-3-yl)-2-methylpropane-2-sulfinamide | 14 g, 100% | BrC1=CC=C(C=C1)[C@H](C)NCC[C@](CC=C)(C1=CC=C(C=C1)F)N[S@](=O)C(C)(C)C | C24H32BrFN2OS
